US05482974
Hydroxylamine hydrochloride (1.1 parts) is added to a solution of 2-fluoro-5-methyl-6-chlorobenzaldehyde in pyridine, and the mixture is stirred for 15 minutes at room temperature. Acetic anhydride (1.3 parts) is then added and the mixture stirred at ambient temperature overnight to effect complete dehydration of the oxime to the nitrile. Most of the pyridine is removed by concentration under vacuum, then the residue is partitioned between ether and water. The organic phase is washed with brine, dried (MgSO4), filtered through silica gel, concentrated, then triturated in hexane to afford 2-fluoro-5-methyl-6-chlorobenzonitrile as light yellow crystals.

reactant | Hydroxylamine hydrochloride | Cl.NO
reactant | 2-fluoro-5-methyl-6-chlorobenzaldehyde | FC1=C(C=O)C(=C(C=C1)C)Cl | C8H6ClFO
reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-fluoro-5-methyl-6-chlorobenzonitrile | FC1=C(C#N)C(=C(C=C1)C)Cl | C8H5ClFN
